US07935699B2
3-{3-[2-(R)-(3-Chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazol-1-ylmethyl}-benzoic acid (600 mg, 1.13 mmol) was suspended in methylene chloride (6 mL) and a 2.0 M solution of oxalyl chloride in methylene chloride (567 μL, 1.13 mmol) was added and the reaction stirred at 25° C. for 10 min. The solution was chilled to 0° C. and 2,6-lutidine (264 μL, 2.27 mmol) was added dropwise. The reaction continued to stir at 0° C. for 10 min to afford the crude 3-{3-[2-(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazol-1-ylmethyl}-benzoyl chloride as a 0.166 M solution in methylene chloride which was used in the following step with no further purification.

reactant | 3-{3-[2-(R)-(3-Chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazol-1-ylmethyl}-benzoic acid | 1.13 mmol, 600 mg | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NN(C=C1)CC=1C=C(C(=O)O)C=CC1)CC1CCCC1 | C26H28ClN3O5S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,6-lutidine | 2.27 mmol, 264 μL | N1=C(C=CC=C1C)C | C7H9N
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.13 mmol, 567 μL | C(Cl)Cl | CH2Cl2
product | 3-{3-[2-(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazol-1-ylmethyl}-benzoyl chloride | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NN(C=C1)CC=1C=C(C(=O)Cl)C=CC1)CC1CCCC1 | C26H27Cl2N3O4S
